US07429609B2
2-Benzyl-5-phenyl-2H-pyrazol-3-ylamine
2.9 g of α-cyanoacetophenone and 3.9 g of benzyl hydrazine dihydrochloride were suspended in 50 mL of ethanol. The reaction solution was added with 6.0 ml of triethylamine at room temperature, and heated under reflux for 4 hours. The solvent was evaporated, and the residue was added with water, extracted with ethyl acetate, and dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:4), to afford 4.1 g of the title compound as a yellow needle powder.

reactant | α-cyanoacetophenone | 2.9 g | C(#N)CC(=O)C1=CC=CC=C1 | C9H7NO
reactant | benzyl hydrazine dihydrochloride | 3.9 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | triethylamine | 6.0 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-Benzyl-5-phenyl-2H-pyrazol-3-ylamine | 4.1 g | C(C1=CC=CC=C1)N1N=C(C=C1N)C1=CC=CC=C1 | C16H15N3
